US04181677
2-Benzoyl-3-methoxy-2-pentenonitrile
A solution containing 30 g. of benzoylacetonitrile, 36.4 g. of triethylorthopropionate and 57 g. of acetic anhydride is heated in an oil bath at 130° for 3 hours. The ethanol and excess acetic anhydride is distilled off and the residue is diluted with chloroform. The chloroform solution is passed quickly through Magnesol® and concentrated, then cooled to produce the title product. Similarly prepared is 2-benzoyl-3-methoxy-2-hexenonitrile and 2-benzoyl-3-methoxy-2-heptenonitrile.

reactant | benzoylacetonitrile | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
reactant | triethylorthopropionate | C(C)OC(CC)(OCC)OCC | C9H20O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Benzoyl-3-methoxy-2-pentenonitrile | C(C1=CC=CC=C1)(=O)C(C#N)=C(CC)OC | C13H13NO2
